US07994423B2
N-(3,4-Difluoro-phenyl)-acetamide.
1 Acetyl chloride (82.61 mL, 774.50 mmol) was added slowly to a solution of 3,4-Difluoro-phenylamine (100 g, 774.50 mmol) in pyridine (250 mL) in ice bath. The mixture was stirred at 0° C. for 45 min then was kept at room temperature for 3 hrs. Solvent was removed under reduced pressure. The residue was crystallized in acetone/water to give a solid. 1H NMR (300 MHz, CDCl3): δ 7.86 (br, 1H), 7.62-7.55 (m, 1H), 7.07 (m, 2H), 2.16 (s, 3H).

reactant | Acetyl chloride | 774.50 mmol, 82.61 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3,4-Difluoro-phenylamine | 774.50 mmol, 100 g | FC=1C=C(C=CC1F)N | C6H5F2N
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | N-(3,4-Difluoro-phenyl)-acetamide | FC=1C=C(C=CC1F)NC(C)=O | C8H7F2NO
